US04439425
0.9 g of N-palmitoyl-S-[2(R),3(R),4-trihydroxybutyl]-(L)-cysteine-benzhydryl ester in a mixture of 3 ml of trifluoroacetic acid and 12 ml of methylene chloride is allowed to stand for 2 hours at room temperature. The reaction mixture is then evaporated to dryness; the residue is triturated with ice-water, filtered off with suction and the solid substance is dried. It is then extracted with ligroin, and recrystallised from acetone to yield colourless crystals of N-palmitoyl-S-[2(R),3(R),4-trihydroxy-butyl]-(L)-cysteine, m.p. 76°-76.5°, having the specific rotation [α]D20 =-5° (c=0.819, dioxane).

reactant | N-palmitoyl-S-[2(R),3(R),4-trihydroxybutyl]-(L)-cysteine-benzhydryl ester | 0.9 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC([C@@H](NC(CCCCCCCCCCCCCCC)=O)CSC[C@@H]([C@@H](CO)O)O)=O | C36H55NO6S
solvent | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
product | N-palmitoyl-S-[2(R),3(R),4-trihydroxy-butyl]-(L)-cysteine | C(CCCCCCCCCCCCCCC)(=O)N[C@@H](CSC[C@@H]([C@@H](CO)O)O)C(=O)O | C23H45NO6S
